US06693156B1
In a 500 mL flask equipped with magnetic stirring bar were introduced 10 g (0.069 moles) of 4,7-dimethyl-indene, 1.04 g (0.035 moles) of formalin and 2.64 g (0.014 moles) of para-toluenesulphonic acid in 100 ml of toluene; the mixture was heated to 80° C. and was maintained under stirring for 3 hours at 80° C. Then the reaction was quenched with water/NaHCO3; the conversion, measured by gas chromatographic analysis, was 82.4%. The organic layer was separated, washed with water and brought to dryness under reduced pressure. The crude product was crystallized upon standing at room temperature, and then was further purified by washing with pentane or MeOH, thus isolating 5.1 g of bis(4,7-dimethyl-2-indenyl)methane (purity of 90.2% by G.C.; yield=44. 1%).

reactant | 4,7-dimethyl-indene | 0.069 moles, 10 g | CC1=C2C=CCC2=C(C=C1)C | C11H12
reactant | formalin | 0.035 moles, 1.04 g | C=O | CH2O
reactant | para-toluenesulphonic acid | 0.014 moles, 2.64 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | bis(4,7-dimethyl-2-indenyl)methane | 5.1 g, 1% | CC1=C2C=C(CC2=C(C=C1)C)CC=1CC2=C(C=CC(=C2C1)C)C | C23H24
